US09353086B2
6-[(1-Benzylpiperidin-4-yl)oxy]pyridine-2-carboxylic acid
Tert-butyl 6-chloropyridine-2-carboxylate (1.00 g, 4.68 mmol) and N-benzylpiperidin-4-ol (1.88 g, 9.83 mmol) were dissolved in dioxane (10 mL). NaH (393 mg, 60% dispersion in mineral oil, 9.83 mmol) was added and the reaction mixture was heated using a microwave (80° C., absorption high) for 1 h. The solvents were removed in vacuo and the residue was dissolved in MeOH (100 mL), filtered and concentrated in vacuo. The residue was purified by reverse phase column chromatography to give the title compound (860 mg, 59%) as a white solid. LCMS (ES+): 313.1 [MH]+.

reactant | Tert-butyl 6-chloropyridine-2-carboxylate | 4.68 mmol, 1.00 g | ClC1=CC=CC(=N1)C(=O)OC(C)(C)C | C10H12ClNO2
reactant | N-benzylpiperidin-4-ol | 9.83 mmol, 1.88 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | NaH | 9.83 mmol, 393 mg | [H-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-[(1-Benzylpiperidin-4-yl)oxy]pyridine-2-carboxylic acid | 860 mg, 59% | C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC=CC(=N1)C(=O)O | C18H20N2O3
